Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"It's all too much..."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year-old female with a remote history of 
depression and past suicide attempt, and a history of multiple 
medical complaints including chronic back ___ and chronic 
migraine, who presents with a suicide attempt by overdose of 
verapamil and cyclobenzaprine.  

She has been experiencing two months of depressed mood, 
decreased sleep, decreased energy, anhedonia, decreased 
appetite, weight loss, impaired concentration and memory, in the 
setting of several years of multiple stressors, including her 
son's health, her father's diagnosis with Stage IV lung cancer, 
marital troubles, and her own health concerns.  Her main 
stressor is the health of her son ___, who was delivered 
emergently at 7 months' gestation after the pregnancy was 
complicated by PRES and preeclampsia.  ___ is now ___ years 
old and has multiple medical conditions that require ongoing 
supervision by the patient.  This has required her to stop 
working and has also placed great financial strain on her 
marriage.  She has also suffered chronic back ___ and muscle 
spasms from having to lift and carry ___, who is ataxic at 
baseline.  Additionally, she has been suffering from a constant 
migrainous headache for the past ___ weeks, one that has been 
completely refractory to pharmacotherapy despite an ED visit and 
med changes by her outpatient neurologist Dr. ___ 
___ changed to Verapamil).  She has also had several 
recent fights with her husband surrounding the issue of one of 
his ex-girlfriends and the question of his relationship with 
her.  ___ says the she has become uncharacteristically jealous 
with regard to this.  She has been struggling with thoughts of 
suicide for the past two weeks.  She made this known to her 
husband, who she says has been very attentive since that time.  
The night prior to admission, however, ___ was at a birthday 
party for a friend, where she drank excessively.  Upon coming 
home, she had a big fight with her husband.  She was intending 
to leave with her son ___ and ___ to her mother's house, but 
on the day of admission, she awoke and decided instead that 
"things would be easier if I were out of the equation."  When 
her husband was out of the house, she took 4 verapamil and 4 
cyclobenzaprine.  She then sent a text message to her husband 
saying, "Make sure ___ knows that I love him.  I love you.  
I'm sorry."  Her husband came home immediately upon receiving 
this, and the patient was then brought in by ambulance to the 
___ ED.

She has a strong personal and family history of psychiatric 
illness.  The patient herself was treated for depression at the 
time of the dissolution of her first marriage.  She was on 
pharmacotherapy for about six months, but discontinued it when 
she felt that it had seen her through the difficulty over her 
divorce.  She also made one suicide attempt at age ___ by 
ingesting aspirin; she refers to this as a "cry for help" in 
order to get her mother's attention.  Her brother committed 
suicide at age ___.  Her sister has bipolar disorder and has made 
multiple suicide attempts, but is still living.

In the ED today, she endorses overpowering feelings of 
worthlessness and guilt.  She says that she has felt like she is 
"not on top of things," that she is "inadequate," and that she 
is always "letting my husband down."  She is very embarrassed by 
her suicide attempt and says she wants to "crawl into a dark 
hole and never come out."  She is also still very worried about 
how this will affect her son.  Specifically, she is distressed 
that he has his first appointment with an immunologist tomorrow, 
and she feels like she is failing ___ by her actions today.

She endorses occasional panic attacks, marked by racing heart 
rate and by tingling in her fingers.  She also has recurrent 
tachycardia not associated with anxiety symptoms or any other 
symptoms.  She spent three days in the hospital last ___, 
with an unrevealing workup.  

She denies symptoms consistent with psychosis including 
delusions (persecutory, grandiose, thought 
broadcasting/insertion/withdrawal) or hallucinations (auditory, 
visual, olfactory, tactile).

She denies symptoms consistent with mania including elevated 
mood, racing thoughts, decreased need for sleep, or
thoughtlessness.
 
Past Medical History:
1. Asthma, symptoms worse as a child but as an adult she uses an 
albuterol inhaler PRN ___ per year when the seasons change. No 
history of hospitalizations for exacerbations.
2. Gastroesphageal reflux disease
3. Chronic low back ___
4. Posterior reversible encephalopathic syndrome during her 
first pregnancy
5. Previous D and C X 2.
6. Wisdom teeth extractions

PAST PSYCHIATRIC HISTORY:
Previous mood/anxiety/psychotic diagnoses: Depression
Past psychiatric hospitalizations: Denies
Past medication trials, response, compliance, recent changes: On
pharmacotherapy in past, but discontinued ___ years ago
History of suicide attempts, self-injurious behavior, or
assaultive behavior: Aspirin overdose at age ___
Current outpatient therapist: None
Current outpatient prescriber: None
 
Social History:
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
History of suicidality or suicide attempts: Brother, committed
suicide at age ___ sister, history of bipolar disorder, has made
"multiple attempts:
History of diagnosed psychiatric/substance abuse disorders:
Brother, bipolar disorder; sister, bipolar disorder
History of inpatient psychiatric hospitalizations: Unknown
 
Physical Exam:
From the psychiatric admission evaluation by ___, MD on 
___:

Physical examination:
VS: WNL
Gen: WDWN, Caucasian female, fair grooming and hygiene, appears
stated age
HEENT: normocephalic, oropharnyx clear. PERRL, EOMI.
CV: RRR, no M/R/G
Pulm: CTAB
Abd: soft, NT/ND, normoactive bowel sounds present

Neurological:
  CN:
   II: PERRLA
   III, IV, VI: EOM intact
   V: facial sensation intact bilat
   VII: facial mvts symmetric bilat
   VIII: finger rub audible bilat
   IX, X: palate raise symmetric bilat
   XI: SCM and trapezii ___ bilat
   XII: tongue midline
  Motor: Normal bulk and tone, strength ___ in all extremities. 
Sensory: grossly intact to light touch and pinprick bilaterally
  Reflexes: 2+ biceps, triceps, brachioradialis and patellar
reflexes.
  Cerebellar: Intact finger to nose.
  Gait: intact.
  Abnormal movements: none noted.
 
Pertinent Results:
___ 01:25PM URINE  HOURS-RANDOM
___ 01:25PM URINE  UCG-NEGATIVE
___ 01:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 01:25PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:03PM   GLUCOSE-80 UREA N-9 CREAT-0.8 SODIUM-142 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-27 ANION GAP-17
___ 01:03PM   estGFR-Using this
___ 01:03PM   HCG-<5
___ 01:03PM   ASA-NEG ETHANOL-61* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:03PM   WBC-5.1 RBC-4.52 HGB-13.5 HCT-38.7 MCV-86 
MCH-29.8 MCHC-34.8 RDW-14.5
___ 01:03PM   NEUTS-58.0 ___ MONOS-4.4 EOS-1.2 
BASOS-1.1
___ 01:03PM   PLT COUNT-___. Legal Status:

The patient arrived on a section 12a, signed a conditional 
voluntary section 10 and 11, and was admitted to the inpatient 
psychiatric unit.

2. Psychiatric:

Major depressive disorder:
The patient initially endorsed a worsening depressed mood and 
suicidal thoughts that led to an intentional ingestion of her 
prescribed medications with the intent to end her life. She also 
endorsed a significant level of anxiety around a nearly constant 
preoccupation with the well-being of her young son. She was 
amenable to treatment with psychotropic medications and she was 
started on an antidepressant (fluoxetine) with a mood stabilizer 
(Depakote ER, divalproex sodium) as an adjunctive treatment to 
target her mood symptoms. She also received Seroquel 25 - 50 mg 
as needed to target her anxiety/agitation throughout the day. 
She was compliant with the prescribed medications and did not 
experience any immediate adverse reactions. Her dose of 
fluoxetine was increased to 20 mg po daily and her dose of 
Depakote ER was increased to 500 mg po QAM and 750 mg po QPM  
(total dose 1350 mg/day). Her serum valproic acid level on 
___ was 51 mcg/mL (therapeutic range 50 - 125 mcg/mL). She 
reported an improvement with respect to her mood and anxious 
symptoms and at the time of discharge denied suicidal ideation, 
intent, or plan and denied homicidal ideation.

3. Medical:

Migraine headaches:
The patient had been started on treatment with verapamil by her 
outpatient neurologist but only for a few days prior to her 
presentation to the ED and subsequent hospitalizations. She was 
amenable to continuing treatment with medication for her 
migraine headaches which she continued to endorse daily 
initially. She was started on propranolol with the goal of 
migraine prophylaxis and to target her noted tachycardia that 
was without clear etiology. The dose of propranolol was 
increased to 20 mg PO TID by the time of discharge. She reported 
a reduction in the severity and frequency of her migraine 
headaches by the time of discharge.

4. Psychosocial:

The patient underwent initial and ongoing psychosocial 
assessment to assess her current outpatient needs with social 
worker, ___, during hospitalization. She was 
assisted with identifying her social support and outpatient 
resources and with arranging outpatient psychiatric follow-up 
management. Meetings with the patient's family facilitated by 
social work were held to discuss the patient's status, treatment 
progress, and aftercare planning.
 
Medications on Admission:
Psychiatric:
None

Non-psychiatric:
-Verapamil
-Cyclobenzaprine
-Ibuprofen
-ASA 81 mg
-Protonix
-___ oil 4000 mg
 
Discharge Medications:
1. quetiapine 25 mg Tablet Sig: ___ Tablets PO BID (2 times a 
day) as needed for anxiety.
Disp:*60 Tablet(s)* Refills:*1*
2. zolpidem 5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for insomnia.
Disp:*15 Tablet(s)* Refills:*1*
3. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*30 Capsule(s)* Refills:*1*
4. divalproex ___ mg Tablet, Delayed Release (E.C.) Sig:   
Tablet, Delayed Release (E.C.) PO  : 1 tablet (500 mg) PO QAM, 
and 1.5 tablet (750 mg) PO QPM.
Disp:*75 Tablet, Delayed Release (E.C.)(s)* Refills:*1*
5. propranolol 20 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*1*
6. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO three 
times a day as needed for spasm.
Disp:*30 Tablet(s)* Refills:*1*
7. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Major depressive disorder, in partial remission
Axis II: Deferred
Axis III: Migraine headaches, history of preeclampsia
Axis IV: Problems with primary support group, problems related 
to the social environment, financial, occupational 
Axis V: Current GAF = 45 (On admission = 15)
 
Discharge Condition:
The patient is stable and appears safe and appropriate for 
discharge from inpatient level of care 
 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 
Depression: Tips to Help Yourself

As your healthcare providers help treat your depression, you can 
also help yourself. Keep in mind that your illness affects you 
emotionally, physically, mentally, and socially. So full 
recovery will take time. Take care of your body and your soul, 
and be patient with yourself as you get better.

Be With Others
___ isolate yourself—you’ll only feel worse. Try to be with 
other people. And take part in fun activities when you can. Go 
to a movie, ballgame, religious service, or social event. Talk 
openly with people you can trust. And accept help when it’s 
offered.

Keep Your Perspective
Depression can cloud your judgment. So wait until you feel 
better before making major life decisions, such as changing 
jobs, moving, or getting married or divorced.

This illness is not your fault. ___ blame yourself for your 
depression.

Recovering from depression is a process. ___ be discouraged if 
it takes some time to feel better.

Depression saps your energy and concentration. So you won’t be 
able to do all the things you used to do. Set small goals and do 
what you can.

Take Care of Your Body
People with depression often lose the desire to take care of 
themselves. That only makes their problems worse. During 
treatment and afterward, make a point to:

•Exercise. It’s a great way to take care of your body. And 
studies have shown that exercise helps fight depression.

•Avoid drugs and alcohol. These may ease the ___ in the short 
term. But they’ll only make your problems worse in the long run.

•Get relief from stress. Ask your healthcare provider for 
relaxation exercises and techniques to help relieve stress.

•Eat right. A balanced and healthy diet helps keep your body 
healthy.

 
Followup Instructions:
___